US04029788
A mixture of 225 g (1.47 moles) of 4-nitro-o-phenylenediamine, 375 g. (2.97 moles) of oxalic acid dihydrate and 2250 ml. of 6 N hydrochloric acid is combined in a 3 necked 5 liter round bottom flask which is fitted with a reflux condenser and a teflon paddle stirrer. The suspension is heated at reflux temperature for one hour and allowed to stand at room temperature over night. The material is filtered and the dark brown solid collected is washed with five 300 ml. portions of hot distilled water. The solid is slurried in two equal portions each in 40 ml. of 2 N sodium hydroxide. Each mixture is heated to near boiling with stirring and filtered hot. The red-brown hot filtrate is treated with about two liters of 4 N hydrochloric acid for each batch and the slightly acidic mixtures are filtered while still hot. The brown solid collected is washed with water several times, air dried and finally dried in vacuo over phosphorous pentoxide at 78° C. to give 227.2 g of 2,3-dihydroxy-6-nitroquinoxaline. The reference for the above compound is H. I. X. Mager and W. Berends, Rec. Trav. Chim. 78, 5-21 (1959). An additional reference is F. H. S. Curd, D. G. Davey, and G. J. Stacy, Journ. Chem. Soc. 275, 1271-1277 (1949).

reactant | 4-nitro-o-phenylenediamine | 1.47 moles, 225 g | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
reactant | oxalic acid dihydrate | 2.97 moles | O.O.C(C(=O)O)(=O)O
reactant | hydrochloric acid | 6 N | Cl | ClH
product | 2,3-dihydroxy-6-nitroquinoxaline | 227.2 g | OC1=NC2=CC=C(C=C2N=C1O)[N+](=O)[O-] | C8H5N3O4
